US06924284B2
Succinic anhydride (85 mg, 0.85 mmol) and N-hydroxy-4-methanesulfonyl-benzamidine (180 mg, 0.85 mmol) were dissolved in 2.0 mL of DMF and heated at 120° C. overnight. The cooled solution was evaporated and dried to yield 3-[3-(4-methanesulfonyl-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid which was used without further purification.

reactant | Succinic anhydride | 0.85 mmol, 85 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | N-hydroxy-4-methanesulfonyl-benzamidine | 0.85 mmol, 180 mg | ONC(C1=CC=C(C=C1)S(=O)(=O)C)=N | C8H10N2O3S
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-[3-(4-methanesulfonyl-phenyl)-[1,2,4]oxadiazol-5-yl]-propionic acid | CS(=O)(=O)C1=CC=C(C=C1)C1=NOC(=N1)CCC(=O)O | C12H12N2O5S
